US06403610B1
A solution of 10.8 g of (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetic acid in 460 cm3 of anhydrous methanol to which 4.3 cm3 of concentrated sulfuric acid (d =1.83) had been added was heated at a temperature in the region of 65° C. with stirring for 2 hours. After cooling to approximately 20° C., the reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then the residue obtained was taken up in 200 cm3 of water and rendered alkaline by addition of sodium hydrogencarbonate until a pH in the region of 8-9 was obtained. The mixture was extracted with 4 times 200 cm3 of ethyl acetate. The aqueous phase was basified to a pH in the region of 11 by addition of the necessary amount of sodium carbonate. The mixture was extracted with 2 times 200 cm3 of ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered, and evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 6.84 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate were obtained in the form of an oil with a brown color.

reactant | (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetic acid | 10.8 g | O=C(CC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)CC(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C25H32N2O6
reactant | sulfuric acid | 4.3 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | methanol | 460 cm3 | CO | CH4O
solvent | water | 200 cm3 | O | H2O
product | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 6.84 g | O=C(CC[C@H]1[C@H](CNCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C21H26N2O4
